US09447074B2
Intermediate 19, (4-ethyl-2-pyridinyl)methanol
A solution of 4-ethylpyridine (Commercial, e.g. Sigma-Aldrich) (10.7 g), ammonium peroxydisulfate (45.6 g) and concentrated sulphuric acid (4.5 ml) in methanol (150 ml)/water (70 ml) was refluxed for 24 h. The reaction mixture was slowly added onto aqueous sodium bicarbonate and extracted with chloroform (4×500 ml). This was dried over sodium sulphate, concentrated in vacuo and purified through silica using 0-60% ethyl acetate in hexane to give the title compound, 1.16 g Mass Spec: [MH]+=138.0

reactant | 4-ethylpyridine | 10.7 g | C(C)C1=CC=NC=C1 | C7H9N
reactant | ammonium peroxydisulfate | 45.6 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | sulphuric acid | 4.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 70 ml | O | H2O
product | (4-ethyl-2-pyridinyl)methanol | C(C)C1=CC(=NC=C1)CO | C8H11NO
